US06340683B1
N1-[4-(aminomethyl)cyclohexyl]methyl-4-fluoro-1-benzenesulfonamide:
A solution of 2.37 g of 4-fluorophenylsulfonyl chloride (12.2 mmol) in 30 ml of dichloromethane was added over 10 minutes to a stirred solution of 5.20 g of 1,4-bis-aminomethylcyclohexane (36.6 mmol) and 3.15 g of diisopropylethylamine (24.4 mmol) in 100 ml of dichloromethane at room temperature. The reaction mixture was stirred at room temperature for 16 hours, concentrated, and chromatographed on 200 g of silica packed with 5% MeOH (containing 2M NH3)-CHCl3, eluted with 5%, 7.5%, 10% (1 liter each) to give 3.63 g of the desired product.

reactant | 4-fluorophenylsulfonyl chloride | 12.2 mmol, 2.37 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | 1,4-bis-aminomethylcyclohexane | 36.6 mmol, 5.20 g | NCC1CCC(CC1)CN | C8H18N2
reactant | diisopropylethylamine | 24.4 mmol, 3.15 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N1-[4-(aminomethyl)cyclohexyl]methyl-4-fluoro-1-benzenesulfonamide | 3.63 g | NCC1CCC(CC1)CNS(=O)(=O)C1=CC=C(C=C1)F | C14H21FN2O2S
